US04996230
A. Preparation of 2-(2,4-dimethoxyphenyl)-4,4-dimethyloxazoline
A solution of 27.4 g of 2,4-dimethoxybenzoyl chloride in 30 ml of methylene chloride was added dropwise to a solution of 26.2 g of 2-amino-2-methyl-1-propanol in methylene chloride at 0° C. The mixture was allowed to warm to room temperature and stirred overnight. The mixture was filtered and the filtrate washed twice with 1N hydrochloric acid, once with water, dried, and concentrated in vacuo. Excess thionyl chloride was added to the oily residue. After stirring one hour the mixture was poured into diethyl ether. The resulting solid was recovered by filtration and washed with diethyl ether. The solid was added to 1N sodium hydroxide and stirred. The aqueous mixture was extracted with ethyl acetate and the organic layer separated, dried, and concentrated in vacuo. Distillation of the resulting yellow oil at 165°-170° C. at 0.02 mm pressure provided 17.8 g of the desired subtitled intermediate.

reactant | 2,4-dimethoxybenzoyl chloride | 27.4 g | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | 2-amino-2-methyl-1-propanol | 26.2 g | NC(CO)(C)C | C4H11NO
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,4-dimethoxyphenyl)-4,4-dimethyloxazoline | 17.8 g | COC1=C(C=CC(=C1)OC)C=1OCC(N1)(C)C | C13H17NO3
